US07417047B2
Step d) Preparation of 4-[2-Amino-4-(3-bromophenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1-ethyl-1H-pyrrole-2-carbaldehyde
In DMF, (7 mL) is dissolved 4-[2-amino-4-(3-bromophenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1H-pyrrole-2-carbaldehyde (1.50 g; 4.15 mmol). To this solution is added cesium carbonate (1.35 g; 4.15 mmol) and iodoethane (0.43 mL; 5.4 mmol), and the mixture is stirred for 20 hours at room temperature. The mixture is diluted to 50 mL with chloroform, washed twice with water, dried over MgSO4, filtered, and evaporated. The residue was crystallized in ethyl acetate to give the title product as light-brown crystals, 1.18 g (73% yield), mp 194-195° C.; MS (ES) m/z 387.0, [M−H]−.

reactant | 4-[2-amino-4-(3-bromophenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1H-pyrrole-2-carbaldehyde | 4.15 mmol, 1.50 g | NC=1N(C(C(N1)(C1=CC(=CC=C1)Br)C=1C=C(NC1)C=O)=O)C | C15H13BrN4O2
reactant | cesium carbonate | 4.15 mmol, 1.35 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodoethane | 5.4 mmol, 0.43 mL | ICC | C2H5I
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-[2-Amino-4-(3-bromophenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-1-ethyl-1H-pyrrole-2-carbaldehyde | 73% yield | NC=1N(C(C(N1)(C1=CC(=CC=C1)Br)C=1C=C(N(C1)CC)C=O)=O)C | C17H17BrN4O2
